US08809324B2
1-(4-Bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide
A solution of N-(2,4-dimethoxybenzyl)-1-(4-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide from the above reaction in 150 ml of dichloromethane was admixed with 50 ml of trifluoroacetic acid and stirred at room temperature for 17 hours. The starting solution was coevaporated twice with 100 ml of toluene and the crude product was purified using a Flashmaster with an n-heptane/ethyl acetate gradient by means of normal phase chromotography. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (16 g) with a molecular weight of 308.2 g/mol (C10H14BrNO3S).

reactant | N-(2,4-dimethoxybenzyl)-1-(4-bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | COC1=C(CNS(=O)(=O)C(C(C)(C)O)C2=CC=C(C=C2)Br)C=CC(=C1)OC | C19H24BrNO5S
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-(4-Bromophenyl)-2-hydroxy-2-methylpropane-1-sulfonamide | 16 g | BrC1=CC=C(C=C1)C(C(C)(C)O)S(=O)(=O)N | C10H14BrNO3S
